datasets/RMG-dataset.csv
rxn,Ea
[C:0]([N:1]([C:2]([H:7])([H:8])[H:9])[H:6])([H:3])([H:4])[H:5].[N:10]([H:11])[H:12]>>[C:0]([N:1][C:2]([H:7])([H:8])[H:9])([H:3])([H:4])[H:5].[H:6][N:10]([H:11])[H:12],29.886312
[C:0]([C:1]([H:4])([H:5])[H:6])([H:2])[H:3].[C:7]([H:8])([H:9])[H:10]>>[C:0](=[C:1]([H:5])[H:6])([H:2])[H:3].[H:4][C:7]([H:8])([H:9])[H:10],0.0
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])[H:9])[H:8])([H:6])[H:7].[C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])([H:9])[C:14]([c:15]1[c:16]([H:23])[c:17]([H:24])[c:18]([H:25])[c:19]([H:26])[c:20]1[H:27])([H:21])[H:22])[H:8])([H:6])[H:7],33.1373
[C:0](=[C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])[H:14].[C:26](=[C:27]([H:29])[H:30])[H:28]>>[C:0]([C:1]([c:2]1[c:3]([H:16])[c:4]([H:17])[c:5]([H:18])[c:6]([H:19])[c:7]1[H:20])[H:15])([c:8]1[c:9]([H:21])[c:10]([H:22])[c:11]([H:23])[c:12]([H:24])[c:13]1[H:25])([H:14])[C:26](=[C:27]([H:29])[H:30])[H:28],14.0582
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](=[C:25]([C:26]([C:27](=[C:28]([H:34])[H:35])[H:33])[H:32])[H:31])([H:29])[H:30]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])[C:4]([C:5]([H:16])([H:17])[H:18])([c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:26]([C:25](=[C:24]([H:29])[H:30])[H:31])([C:27](=[C:28]([H:34])[H:35])[H:33])[H:32])[H:12],72.0485
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35][O:36]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:18][O:35][O:36],199.11656
[C:1]([H:2])([H:3])[H:4].[O:5]=[N+:6]([O-:7])[H:8]>>[C:1]([H:2])([H:3])([H:4])[H:8].[O:5][N:6]=[O:7],20.25056
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])[C:4]([C:5](=[C:6]([C:7]([H:18])([H:19])[H:20])[H:17])[H:16])([H:14])[H:15])[H:10])([H:8])[H:9]>>[C:0](=[C:1]([C:2]1([C:3]([H:11])([H:12])[H:13])[C:4]([H:14])([H:15])[C:5]([H:16])[C:6]1([C:7]([H:18])([H:19])[H:20])[H:17])[H:10])([H:8])[H:9],167.82
[S:0][C:1]([S:2])([H:3])[H:4]>>[H:3].[S:0]=[C:1]([S:2])[H:4],152.9252
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])[C:6](=[C:7]([H:14])[H:15])[H:13])[H:9])[H:8].[C:16](=[C:17]([C:18]([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:23])([H:21])[H:22]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:11])[H:12])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[C:18]([C:17](=[C:16]([H:21])[H:22])[H:23])([C:19]([H:24])([H:25])[H:26])[C:20]([H:27])([H:28])[H:29])[H:9])[H:8],41.84
[C:0](=[C:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[O:8][O:9]>>[C:0](=[C:1]=[C:2]([H:6])[H:7])([H:3])[H:4].[H:5][O:8][O:9],-1.7305024
[C:5]([H:6])([H:7])[H:8].[S:0]=[C:1]([S:2][H:4])[H:3]>>[H:3][C:5]([H:6])([H:7])[H:8].[S:0]=[C:1][S:2][H:4],108.366
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16]([H:17])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:16]([H:17])([H:18])[H:19])[H:9])[H:8])([H:6])[H:7],20.6271
[C:0](#[C:1][C:2]([C:3]([C:4]([C:5]([H:13])([H:14])[H:15])=[C:6]([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])([H:11])[H:12])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])([H:12])[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]1([C:7]([H:16])([H:17])[H:18])[C:8]([H:19])([H:20])[H:21])[H:9],157.528
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[O:35]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:18][O:35],7.397312
[C:0]([H:1])([H:2])[H:3].[c:4]1([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]2[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]2[c:13]1[H:21]>>[C:0]([H:1])([H:2])([H:3])[H:14].[c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]2[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]([H:20])[c:12]2[c:13]1[H:21],62.608
[C:0]([O:1][C:2]([O:3][O:4])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:0]([O:1][C:2]([O:3][O:4][H:5])([H:8])[H:9])([H:6])[H:7],90.29072
